US07659268B2
To a solution of methyl 6-bromo-5-chloropyridin-2-ylcarbamate (1.1 g, 4.1 mmol) in methanol (50 mL) was added KOH (700 mg, 13 mmol) at room temperature. The mixture was heated at reflux for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum. The residue was purified by column chromatography on silica gel (5% to 10% EtOAc in petroleum ether) to give 6-bromo-5-chloropyridin-2-amine (700 mg, 81%). 1H NMR (400 MHz, CDCl3) δ 7.54 (d, J=8.0 Hz, 1H), 6.41 (d, J=8.4 Hz, 1H).

reactant | methyl 6-bromo-5-chloropyridin-2-ylcarbamate | 4.1 mmol, 1.1 g | BrC1=C(C=CC(=N1)NC(OC)=O)Cl | C7H6BrClN2O2
reactant | KOH | 13 mmol, 700 mg | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | O | H2O
product | 6-bromo-5-chloropyridin-2-amine | 700 mg, 81% | BrC1=C(C=CC(=N1)N)Cl | C5H4BrClN2
